US09422331B2
A rt solution of tert-butyl(2S,3S)-1-acetyl-8-cyano-2-methyl-4-oxo-2,3,4,5-tetrahydro-1H-benzo[b][1,4]diazepin-3-ylcarbamate (144 mg, 402 μmol) in 4 M HCl in dioxane (2.01 ml) was stirred for 2 h. The reaction was diluted with Et2O and the solids were collected by vacuum filtration, taken up in DMF (1.34 ml), and Boc-N-methyl-L-alanine (89.9 mg, 442 μmol), N,N-diisopropylethylamine (278 μl, 1.61 mmol), and HBTU (168 mg, 442 μmol) were added at 0° C. The reaction was stirred at rt for 30 min, then diluted with EtOAc, washed with H2O, sat. aq. NaHCO3, and sat. aq. NaCl, dried over Na2SO4, filtered, and concentrated. The crude material was purified by flash chromatography to provide tert-butyl(S)-1-((2S,3S)-1-acetyl-8-cyano-2-methyl-4-oxo-2,3,4,5-tetrahydro-1H-benzo[b][1,4]diazepin-3-ylamino)-1-oxopropan-2-yl(methyl)carbamate (123 mg, 69%) as a white solid. MS m/z 466 (MNa)+.

reactant | tert-butyl(2S,3S)-1-acetyl-8-cyano-2-methyl-4-oxo-2,3,4,5-tetrahydro-1H-benzo[b][1,4]diazepin-3-ylcarbamate | 402 μmol, 144 mg | C(C)(=O)N1C2=C(NC([C@H]([C@@H]1C)NC(OC(C)(C)C)=O)=O)C=CC(=C2)C#N | C18H22N4O4
reactant | Boc-N-methyl-L-alanine | 442 μmol, 89.9 mg | C(=O)(OC(C)(C)C)N([C@@H](C)C(=O)O)C | C9H17NO4
reactant | N,N-diisopropylethylamine | 1.61 mmol, 278 μl | C(C)(C)N(C(C)C)CC | C8H19N
reactant | HBTU | 442 μmol, 168 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.F[P-](F)(F)(F)(F)F
solvent | HCl | 4 M | Cl | ClH
solvent | dioxane | 2.01 ml | O1CCOCC1 | C4H8O2
solvent | Et2O | CCOCC | C4H10O
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | tert-butyl(S)-1-((2S,3S)-1-acetyl-8-cyano-2-methyl-4-oxo-2,3,4,5-tetrahydro-1H-benzo[b][1,4]diazepin-3-ylamino)-1-oxopropan-2-yl(methyl)carbamate | 123 mg, 69% | C(C)(=O)N1C2=C(NC([C@H]([C@@H]1C)NC([C@H](C)N(C(OC(C)(C)C)=O)C)=O)=O)C=CC(=C2)C#N | C22H29N5O5
